US06720320B2
4-(2′-methoxybenzylidene)-2-methyl-4H-oxazol-5-one
Anisaldehyde (11.3 g), N-acetylglycine (9.8 g) and sodium acetate (8.2 g) were dissolved in acetic anhydride (200 ml) and the mixture was heated at 100° C. for 10 hr. After cooling, the precipitated yellow crystals were collected by filtration to give the title compound (9.52 g), melting point 151-153° C.

reactant | Anisaldehyde | 11.3 g | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | N-acetylglycine | 9.8 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 8.2 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(2′-methoxybenzylidene)-2-methyl-4H-oxazol-5-one | 9.52 g | COC1=C(C=C2N=C(OC2=O)C)C=CC=C1 | C12H11NO3
